US09315507B2
A suspension of 2-(4-(adamantan-1-yl)phenoxy)acetic acid (0.2 g, 0.69 mmol), dimethylamine (0.031 g, 0.69 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide HCl (EDCI) (0.16 g, 0.83 mmol) and 1-hydroxybenzotriazole hydrate (HOBt) (0.11 g, 0.83 mmol) in N,N-dimethylformamide (2 mL) was added N,N-diisopropylethylamine (DIPEA) (0.106 mL, 1.74 mmol) and stirred at room temperature under nitrogen overnight. Reaction mixture was diluted with ethyl acetate and subsequentially washed with aqueous sodium hydroxide and brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was filtered and evaporated under reduced pressure to afford a crude solid, which was purified by silica gel column chromatography to give 2-(4-(adamantan-1-yl)phenoxy)-N,N-dimethylacetamide as a white solid (0.198 g, 90.3% yield).

reactant | 2-(4-(adamantan-1-yl)phenoxy)acetic acid | 0.69 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)O)C=C2 | C18H22O3
reactant | dimethylamine | 0.69 mmol, 0.031 g | CNC | C2H7N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide HCl | 0.83 mmol, 0.16 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.83 mmol, 0.11 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 1.74 mmol, 0.106 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-(adamantan-1-yl)phenoxy)-N,N-dimethylacetamide | 0.198 g, 90.3% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N(C)C)C=C2 | C20H27NO2
